US07648992B2
d) 4-[(Trimethylsilyl)ethynyl]1,2,3,6-tetrahydropyridine hydrochloride
tert-Butyl 4-[(trimethylsilyl)ethynyl]-3,6-dihydropyridine-1(2H)-carboxylate (2.75 g, 9.8 mmol) was stirred in methanol (10 mL) and acetyl chloride (2.1 mL, 29.2 mmol) was added dropwise. The temperature rose from 18° C. to 30° C. during the addition, and the mixture was kept at 40° C. until there was no more starting material by tlc. The mixture was cooled to room temperature, EtOAc (15 mL) was added and the solid filtered off to give an off-white solid (1.6 g).

reactant | tert-Butyl 4-[(trimethylsilyl)ethynyl]-3,6-dihydropyridine-1(2H)-carboxylate | 9.8 mmol, 2.75 g | C[Si](C)(C)C#CC=1CCN(CC1)C(=O)OC(C)(C)C | C15H25NO2Si
reactant | acetyl chloride | 29.2 mmol, 2.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 4-[(Trimethylsilyl)ethynyl]1,2,3,6-tetrahydropyridine hydrochloride | 1.6 g | Cl.C[Si](C)(C)C#CC=1CCNCC1 | InChI=1S/C10H17NSi.ClH/c1-12(2,3)9-6-10-4-7-11-8-5-10;/h4,11H,5,7-8H2,1-3H3;1H
